US08349893B2
Triethylamine (2.8 mL, 20.0 mmol) was added at 0° C. to a solution of Boc-D-aspartic acid 4-benzyl ester (5.00 g, 15.0 mmol) in dichloromethane, then ethyl chloroformate (1.91 mL, 20.0 mmol) was added dropwise. The reaction mixture was stirred for 1 h at 0° C., then a solution of dimethylamine hydrochloride (2.65 g, 32.0 mmol) and triethylamine (4.53 mL, 32.0 mmol) in dichloromethane (100 mL) were added dropwise. The reaction mixture was allowed to reach room temperature over 16 h, then washed with brine, and concentrated. Chromatography (SiO2; heptane-ethyl acetate gradient) produced (R)-3-tert-butoxycarbonylamino-N,N-dimethyl-succinamic acid benzyl ester (3.77 g, 70%). Colorless oil, m/e=351.4 ([M+H]+).

reactant | Triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | Boc-D-aspartic acid 4-benzyl ester | 15.0 mmol, 5.00 g | C(C1=CC=CC=C1)OC(C[C@@H](NC(=O)OC(C)(C)C)C(=O)O)=O | C16H21NO6
reactant | ethyl chloroformate | 20.0 mmol, 1.91 mL | ClC(=O)OCC | C3H5ClO2
reactant | dimethylamine hydrochloride | 32.0 mmol, 2.65 g | Cl.CNC
reactant | triethylamine | 32.0 mmol, 4.53 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (R)-3-tert-butoxycarbonylamino-N,N-dimethyl-succinamic acid benzyl ester | 3.77 g, 70% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N(C)C)NC(=O)OC(C)(C)C)=O | C18H26N2O5
